US06559145B2
N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxyprop-1-ynyl)-1-methyl-1H-thieno[2,3-c][1,2]thiazine-3-carboxamide 2,2-Dioxide [BS.8]
To a stirring suspension of N-(4-chlorobenzyl)-4-hydroxy-1-methyl-6-(3-(tetrahydro -2H-pyran-2-yloxy)prop-1-ynyl)-1H-thieno[2,3-c][1,2]thiazine-3-carboxamide 2,2-dioxide (Preparation 36, 0.20 g) in MeOH (20 mL) at ambient temperature is added p-toluenesulfonic acid monohydrate (0.030 g). The resulting solution is heated at 60° C. for 45 min. The mixture is cooled to 0° C. and the resulting solid is filtered to afford 0.087g (52%) of the title compound as a white solid. Physical characteristics; 1H NMR (DMSO-d6) δ 3.44, 4.30, 4.48, 7.35, 7.37, 8.50; IR (diffuse reflectance) 3354, 1618, 1570, 1538, 1493, 1436, 1367, 1351, 1304, 1291, 1189, 1151, 1092, 1015, 815 cm−1; MS (EI) m/z 438 (M+). Anal. Found: C, 49.23; H, 3.49; N, 6.38.

reactant | N-(4-chlorobenzyl)-4-hydroxy-1-methyl-6-(3-(tetrahydro -2H-pyran-2-yloxy)prop-1-ynyl)-1H-thieno[2,3-c][1,2]thiazine-3-carboxamide 2,2-dioxide | 0.20 g | ClC1=CC=C(CNC(=O)C2=C(C3=C(N(S2(=O)=O)C)SC(=C3)C#CCOC3OCCCC3)O)C=C1 | C23H23ClN2O6S2
reactant | p-toluenesulfonic acid monohydrate | 0.030 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | MeOH | 20 mL | CO | CH4O
product | N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxyprop-1-ynyl)-1-methyl-1H-thieno[2,3-c][1,2]thiazine-3-carboxamide 2,2-Dioxide | 0.087g, 52% | ClC1=CC=C(CNC(=O)C2=C(C3=C(N(S2(=O)=O)C)SC(=C3)C#CCO)O)C=C1 | C18H15ClN2O5S2
